US04607039
A mixture of methyl N-(o-tolylacetyl)anthranilate (2.8 g.) and sodium hydride (1.1 g. of a 50% w/w dispersion in mineral oil) in toluene (50ml.) was heated at 100° for 1 hr. The reaction mixture was cooled and extracted with water (2×50 ml.). The aqueous extract was acidified to pH 2. The solid which precipitated was filtered off, stirred together with hot ethanol (25 ml.), and the mixture filtered to give 4-hydroxy-3-o-tolylquinolin-2-one, m.p. over 300°.

reactant | methyl N-(o-tolylacetyl)anthranilate | 2.8 g | C1(=C(C=CC=C1)CC(=O)NC=1C(C(=O)OC)=CC=CC1)C | C17H17NO3
reactant | sodium hydride | [H-].[Na+]
solvent | toluene | 50ml | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-3-o-tolylquinolin-2-one | OC1=C(C(NC2=CC=CC=C12)=O)C1=C(C=CC=C1)C | C16H13NO2
